US05417959
To a suspension of pentaerythritol (13.6 g, 0.100 mol) in 10 mL of toluene was added freshly distilled triethyl orthoacetate (16.2 g. 18.3 mL, 0.100 mol) and p-toluenesulfonic acid monohydrate (50 mg). The mixture was slowly heated in an oil bath and ethanol was distilled from the mixture over a period of 12 hrs. After removal of the ethanol, the bath temperature was raised to 125° C. and toluene was distilled off until the solution was homogeneous (about 30 mL). The residue was sublimed (bulb to bulb, ~130--C, 2.5 mmHg) to give 4-(hydroxymethyl)-1-methyl-2,6,7-trioxabicyclo[2.2.21octane (15.0 g, 0.093 mol, 93%).

reactant | pentaerythritol | 0.100 mol, 13.6 g | OCC(CO)(CO)CO | C5H12O4
reactant | triethyl orthoacetate | 0.100 mol, 18.3 mL, 16.2 g | C(C)(OCC)(OCC)OCC | C8H18O3
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 50 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 4-(hydroxymethyl)-1-methyl-2,6,7-trioxabicyclo[2.2.21octane | 0.093 mol, 15.0 g, 93% | OCC12COC(OC1)(OC2)C | C7H12O4
